reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C-:1]([N+:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7]>>[C:1]([N:2]([C:3]([C:4]#[N:5])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8],14.055930101598193
[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]1=[C:7]=[C:6]([H:12])[N:5]([H:11])[N:4]1[H:13])([H:8])([H:9])[H:10],105.099338661184
[C:1]([H:6])([H:7])([H:8])[H:13].[C:2](=[O:3])([C:4]([O:5][H:10])([H:11])[H:12])[H:9]>>[C:1]([C@@:2]([O:3][H:10])([C:4]([O:5][H:13])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8],72.9606556335339
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3](=[C:5]=[C:6]([O:4][H:11])[H:12])[H:10])([H:8])[H:9])[H:7],68.4128660759164
[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2](/[C:3]([O:4]/[C:6](=[N:7]/[H:14])[H:13])=[N:5]\[H:12])[H:11])([H:8])([H:9])[H:10],60.6676767007645
[C:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([C:5]([H:13])([H:14])[H:15])[H:12])([H:6])([H:7])[H:8]>>[C:1]([H:6])([H:7])([H:8])[H:9].[C:2]1[C:3]([H:10])([H:11])[C@:4]1([C:5]([H:13])([H:14])[H:15])[H:12],98.65867630805772
[C:1]([C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C-:2]([O+:3]=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:10])([H:7])([H:8])[H:9].[H:11][H:12],80.5379644859359
[C:1]([C@@:2]([C:3]([C:4][H:12])([H:10])[H:11])([O:5][H:13])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][H:13])[H:12])([H:6])([H:7])[H:8],25.105187487022505
[O:1]([C:2][C@@:4]([C:3]([H:8])([H:9])[H:10])([C:5](=[O:6])[H:12])[H:11])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7],26.87429751317071
[C:1]([C:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])=[C:6]=[C:7]([H:11])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],83.4879483633388
[O:1]1[C:2]([H:9])([H:10])[C@@:3]([C:6]#[N:7])([H:11])[C:4]1=[C:5]([H:8])[H:12]>>[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8],86.2411429767683
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]1[O:3][C@@:6]([O:7][H:10])([H:13])[C@@:4]1([O:5][H:12])[H:11])([H:8])[H:9],66.0211334516457
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([N:3]([N:4])[H:9])[H:10])[H:8].[O+:5]#[C-:6],107.485780092026
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([N:4]([H:13])[H:14])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:3]([H:10])([H:11])[H:12])[C:5]([N:4]([H:13])[H:14])=[N:6]1)([H:7])([H:8])[H:9],87.8768410979236
[H:7][H:8].[N:1](=[C:2]=[N:3][C:4](=[O:5])[H:9])[H:6]>>[N:1](=[C:2](/[N:3]([C:4](=[O:5])[H:9])[H:8])[H:7])\[H:6],61.6636611204663
[C:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]1[O:3][C@@:5]([O:6][H:7])([H:11])[N:4]1[H:10])([H:8])[H:9],93.00052371712508
[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][H:14]>>[C:1]([C:2]([C:3](=[O:4])[C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],68.5509848526214
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[C:6][H:12])[H:11])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C:4]1=[C:5]=[C:6]([H:11])[H:12])[H:7],92.3359561679199
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4](#[N:5])[H:12],97.57648834095181
[C:1]([n:2]1[n:3][c:4]([H:10])[n:5][n:6]1)([H:7])([H:8])[H:9]>>[C:1]([N:2]1[N:3]=[C:4]=[N+:5]([H:10])[N-:6]1)([H:7])([H:8])[H:9],85.07636912481141
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[C:6][H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:5]=[C:6]([O:4][H:13])[H:14])([H:7])([H:8])[H:9],64.0675907150482
[C:1](/[C:2](=[C:3](\[C:4][H:11])[C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9],33.89367876655379
[O:1]=[C:2]([C:3]([C:7]([O:6][C:5]([C:4]([H:8])([H:12])[H:13])([H:14])[H:15])([H:16])[H:17])([H:10])[H:11])[H:9]>>[O:1]([C:2]([C@@:3]1([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[O:6][C:7]1([H:16])[H:17])([H:9])[H:10])[H:8],94.50099842731208
[O:1]=[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:8])[H:7]>>[O+:1]#[C:2][C:3]([O-:4])=[C:5]([O:6][H:7])[H:8],43.44326400293671
[O:1]=[C:2]([C@@:7]1([H:15])[C@:5]([C:4](=[C:3]([H:8])[H:9])[H:11])([H:12])[C:6]1([H:13])[H:14])[H:10]>>[O:1]=[C:2]1[C:3]([H:8])([H:9])[C:4]([H:10])([H:11])[C@@:5]2([H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15],74.9235903641536
[C:1]([O:2][C@:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],92.59259806571482
